US05854237
10,11-Dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 2.00 g of 10,11-dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 15 ml of ethyl alcohol and 15 ml of ethyl acetate containing 0.2 g of 10% Pd/C is hydrogenated for 5 hours. The reaction mixture is filtered through a pad of diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is dissolved in methylene chloride, passed through silica gel and the pad washed with 3:1 ethyl acetate-hexane. The filtrate is concentrated in vacuo to give 1.5 g of the desired product as a yellow solid, m.p. 166°-168° C.

reactant | 10,11-dihydro-10(4-nitrobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.00 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
reactant | ethyl acetate | 15 ml, 0.2 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 10,11-Dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.5 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
